US04407813
1-(4-Chlorophenylthiocarbamoyl)-3-(4-difluoromethoxyphenyl)-4-phenyl-2-pyrazoline (Compound No. 64)
A mixture of 5.8 g. of 3-(4-difluoromethoxyphenyl)-4-phenyl-2-pyrazoline and 3.4 g. of 4-chlorophenylisothiocyanate in 200 ml. of anhydrous ethyl ether was refluxed for 6 hours to react them. After cooling the reaction mixture, the precipitated crystal (6.1 g.) was separated by a filtration. It was confirmed that the product was 1-(4-chlorophenylthiocarbamoyl)-3-(4-difluoromethoxyphenyl)-4-phenyl-2-pyrazoline (melting point of 158.0°-161.0° C.) by the NMR spectrum.

reactant | 3-(4-difluoromethoxyphenyl)-4-phenyl-2-pyrazoline | FC(OC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1)F | C16H14F2N2O
reactant | 4-chlorophenylisothiocyanate | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-(4-Chlorophenylthiocarbamoyl)-3-(4-difluoromethoxyphenyl)-4-phenyl-2-pyrazoline | ClC1=CC=C(C=C1)NC(=S)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC(F)F | C23H18ClF2N3OS
